US07230011B2
1,7-Dimethyl-3-(1-methylpiperdin-4-yl)-5-hydroxy-1H-indole
By a method similar to Preparation 8, using 5-methoxy-1,7 dimethyl-3-(1-methylpiperdin-4-yl)-1H-indole (1.53 g) and pyridine hydrochloride (25 g) to afford 1.33 g (92%) of the title compound: mass spectrum (ion spray): m/z=259 (M+1); 1H NMR (DMSOd6): 8.47 (s, 1H), 6.81 (s, 1H), 6.62 (d, J=2.20 Hz, 1H), 6.33 (d, J=1.46 Hz, 1H), 3.88 (s, 3H), 2.82 (m, 2H), 2.53-2.46 (m, 4H), 2.19 (s, 3H), 1.99 (m, 2H), 1.84 (m, 2H), 1.64 (m, 1H), 1.56 (m, 1H); Calculated for C16H22N2O-0.6 H2O: C, 71.39; H, 8.69; N, 10.41. Found: C, 71.39; H, 8.31; N, 10.33.

reactant | 5-methoxy-1,7 dimethyl-3-(1-methylpiperdin-4-yl)-1H-indole | 1.53 g | COC=1C=C2C(=CN(C2=C(C1)C)C)C1CCN(CC1)C | C17H24N2O
reactant | pyridine hydrochloride | 25 g | Cl.N1=CC=CC=C1
product | 1,7-Dimethyl-3-(1-methylpiperdin-4-yl)-5-hydroxy-1H-indole | 1.33 g, 92% | CN1C=C(C2=CC(=CC(=C12)C)O)C1CCN(CC1)C | C16H22N2O
